US08071592B2
1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Fumarate
To a solution of 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one (0.114 g, 0.358 mmol) in 1:1 (MeOH/CH2Cl2) (25 mL) were added 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (0.059 g, 0.358 mmol) and sodium sulphate (0.100 g) and the resulting solution stirred for 18 h at ambient temperature. Na(OAc)3BH (0.228 g, 1.07 mmol) was added and the solution stirred an additional 2 h. The reaction mixture was concentrated onto silica gel and chromatographed on a silica gel column [0-100% CHCl3/(90:10:1) CHCl3/MeOH/NH4OH)] to yield a colorless oil. The title compound as fumarate salt was formed by treating with 1 equivalent of fumaric acid to yield an off white solid (0.048 g, 23%).

reactant | 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one | 0.358 mmol, 0.114 g | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C16H22N4O3
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium sulphate | 0.100 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Na(OAc)3BH | 1.07 mmol, 0.228 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Fumarate | C(\C=C\C(=O)O)(=O)O.O1CCOC=2C=NC(=CC21)CNC[C@H]2CN(C[C@H]2O)CCN2C(C=CC1=NC=C(C=C21)OC)=O | InChI=1S/C24H29N5O5.C4H4O4/c1-32-18-9-20-19(27-12-18)2-3-24(31)29(20)5-4-28-14-16(21(30)15-28)10-25-11-17-8-22-23(13-26-17)34-7-6-33-22;5-3(6)1-2-4(7)8/h2-3,8-9,12-13,16,21,25,30H,4-7,10-11,14-15H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+/t16-,21+;/m0./s1
